US08134001B2
In a manner similar to the method described in example 4a, 5-chlorosalicylaldehyde (4.6 g, 30 mmol) (Aldrich) reacted with methanesulfonic acid 2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl ester (8 g, 34 mmol) and K2CO3 in N,N-dimethylformamide to give 5-chloro-2-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yloxy)-benzaldehyde as a off white solid (Yield 0.94 g, 10%).

reactant | 5-chlorosalicylaldehyde | 30 mmol, 4.6 g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
reactant | methanesulfonic acid 2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl ester | 34 mmol, 8 g | CC1(OC(CC(C1)OS(=O)(=O)C)(C)C)C | C10H20O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-(2,2,6,6-tetramethyl-tetrahydro-pyran-4-yloxy)-benzaldehyde | ClC=1C=CC(=C(C=O)C1)OC1CC(OC(C1)(C)C)(C)C | C16H21ClO3
